US04182881
C. N-[Dichlorophosphinyl]-2,4,6-trimethylbenzamide
A suspension of 21 g (0.13 mole) of 2,4,6-trimethylbenzamide and 26.8 g (0.13 mole) of phosphorus pentachloride in 200 ml of AR carbon tetrachloride was heated at 70° for 30 min. The solution was cooled to 30° and 6.1 g (0.13 mole) of 97% formic acid added dropwise. Stirred for another 20 min., then filtered, washed with AR carbon tetrachloride and air-dried to give 20.5 g, m.p. 109°-110°.

reactant | 2,4,6-trimethylbenzamide | 0.13 mole, 21 g | CC1=C(C(=O)N)C(=CC(=C1)C)C | C10H13NO
reactant | phosphorus pentachloride | 0.13 mole, 26.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | formic acid | 0.13 mole, 6.1 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-2,4,6-trimethylbenzamide | ClP(=O)(NC(C1=C(C=C(C=C1C)C)C)=O)Cl | C10H12Cl2NO2P
